US08247680B2
Synthesis of Crystalline Powders of Silica Porous Material Modified by Biphenyl Group (BiPh-Hmm))
First, trimethyloctadecylammonium chloride (surfactant: 1.83 g, 5.26 mol) was dissolved in a mixed liquid of water (100 ml) and a 6 M aqueous solution of sodium hydroxide (10 g) to obtain a mixed solution. Then, 4,4′-bis(triethoxysilyl)biphenyl (2.00 g, 4.18 mol) was added dropwise into the obtained mixed solution while stirring at room temperature. Thereafter, the irradiation with ultrasonic waves for 20 minutes and the stirring were repeated to the mixed solution. Subsequently, the solution was stirred for 24 hours at room temperature to obtain a reaction solution. After that, the reaction solution was left at rest at a temperature condition of 98° C. for 48 hours. Then, the reaction solution was heated to obtain a silica porous material modified by a biphenyl group (BiPh-HMM) containing the surfactant. Subsequently, BiPh-HMM containing the surfactant was suspended in a mixed liquid containing ethanol (260 ml) and concentrated hydrochloric acid (11.7 g). Thereafter, the suspended liquid was stirred while heating at a temperature condition of 70° C. for 7 hours to extract the surfactant from the BiPh-HMM. After that, the suspended liquid was filtered. Then, the obtained white powders were washed with ethanol and dried in vacuum to obtain BiPh-HMM crystalline powders.

reactant | 4,4′-bis(triethoxysilyl)biphenyl | 4.18 mol, 2.00 g | C(C)O[Si](C1=CC=C(C=C1)C1=CC=C(C=C1)[Si](OCC)(OCC)OCC)(OCC)OCC | C24H38O6Si2
reactant | hydrochloric acid | 11.7 g | Cl | ClH
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | Biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
